* NGSPICE file created from cim_reram_drv_phaseA.ext - technology: sky130B

.subckt nfet_01v8_W1p0_L0p15_core_topgate D S G VSUBS
X0 S G D VSUBS sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
.ends

.subckt pfet_01v8_W2p0_L0p15_core_botgate D S G w_n109_n264#
X0 S G D w_n109_n264# sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.15
.ends

.subckt nand2_inv_lv VSS VDDA1 VDD B Y A
Xnfet_01v8_W1p0_L0p15_core_topgate_0 Y VSS pfet_01v8_W2p0_L0p15_core_botgate_2/D VSS
+ nfet_01v8_W1p0_L0p15_core_topgate
Xnfet_01v8_W1p0_L0p15_core_topgate_1 nfet_01v8_W1p0_L0p15_core_topgate_2/S VSS B VSS
+ nfet_01v8_W1p0_L0p15_core_topgate
Xnfet_01v8_W1p0_L0p15_core_topgate_2 pfet_01v8_W2p0_L0p15_core_botgate_2/D nfet_01v8_W1p0_L0p15_core_topgate_2/S
+ A VSS nfet_01v8_W1p0_L0p15_core_topgate
Xpfet_01v8_W2p0_L0p15_core_botgate_0 Y VDD pfet_01v8_W2p0_L0p15_core_botgate_2/D VDDA1
+ pfet_01v8_W2p0_L0p15_core_botgate
Xpfet_01v8_W2p0_L0p15_core_botgate_1 pfet_01v8_W2p0_L0p15_core_botgate_2/D VDD B VDDA1
+ pfet_01v8_W2p0_L0p15_core_botgate
Xpfet_01v8_W2p0_L0p15_core_botgate_2 pfet_01v8_W2p0_L0p15_core_botgate_2/D VDD A VDDA1
+ pfet_01v8_W2p0_L0p15_core_botgate
.ends

.subckt pfet_hv_W25p0_L0p5_nf10_core D G S w_n855_n2600#
X0 S G D w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X1 D G S w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=7.25 pd=50.58 as=3.625 ps=25.29 w=25 l=0.5
X2 D G S w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X3 S G D w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X4 S G D w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=7.25 ps=50.58 w=25 l=0.5
X5 S G D w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X6 D G S w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X7 D G S w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X8 D G S w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
X9 S G D w_n855_n2600# sky130_fd_pr__pfet_g5v0d10v5 ad=3.625 pd=25.29 as=3.625 ps=25.29 w=25 l=0.5
.ends

.subckt pfet_hv_W2p0_L0p5_core_botgate D S G w_n144_n264#
X0 S G D w_n144_n264# sky130_fd_pr__pfet_g5v0d10v5 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.5
.ends

.subckt nfet_hv_W4p0_L0p5_core_topgate D S G VSUBS
X0 S G D VSUBS sky130_fd_pr__nfet_g5v0d10v5 ad=1.16 pd=8.58 as=1.16 ps=8.58 w=4 l=0.5
.ends

.subckt lshift_1v8_to_3v3 VSS VDDA1 VDD IN OUT_N OUT
Xpfet_hv_W2p0_L0p5_core_botgate_0 OUT VDDA1 OUT_N VDDA1 pfet_hv_W2p0_L0p5_core_botgate
Xpfet_hv_W2p0_L0p5_core_botgate_1 OUT_N VDDA1 OUT VDDA1 pfet_hv_W2p0_L0p5_core_botgate
Xnfet_hv_W4p0_L0p5_core_topgate_0 OUT VSS nfet_hv_W4p0_L0p5_core_topgate_0/G VSS nfet_hv_W4p0_L0p5_core_topgate
Xnfet_hv_W4p0_L0p5_core_topgate_1 OUT_N VSS IN VSS nfet_hv_W4p0_L0p5_core_topgate
Xnfet_01v8_W1p0_L0p15_core_topgate_0 nfet_hv_W4p0_L0p5_core_topgate_0/G VSS IN VSS
+ nfet_01v8_W1p0_L0p15_core_topgate
Xpfet_01v8_W2p0_L0p15_core_botgate_0 nfet_hv_W4p0_L0p5_core_topgate_0/G VDD IN VDDA1
+ pfet_01v8_W2p0_L0p15_core_botgate
.ends

.subckt cim_reram_drv_phaseA_srcmux VDD VSS pulse_req_1v8 pulse_kind_form_1v8 pulse_kind_setrr_1v8
+ SRC_RAIL VDDA1
Xnand2_inv_lv_0 VSS VDDA1 VDD pulse_kind_setrr_1v8 nand2_inv_lv_0/Y pulse_req_1v8
+ nand2_inv_lv
Xnand2_inv_lv_1 VSS VDDA1 VDD pulse_kind_form_1v8 nand2_inv_lv_1/Y pulse_req_1v8 nand2_inv_lv
Xpfet_hv_W25p0_L0p5_nf10_core_0 SRC_RAIL lshift_1v8_to_3v3_0/OUT_N VDDA1 VDDA1 pfet_hv_W25p0_L0p5_nf10_core
Xpfet_hv_W25p0_L0p5_nf10_core_1 SRC_RAIL lshift_1v8_to_3v3_1/OUT_N VDDA1 VDDA1 pfet_hv_W25p0_L0p5_nf10_core
Xlshift_1v8_to_3v3_0 VSS VDDA1 VDD nand2_inv_lv_0/Y lshift_1v8_to_3v3_0/OUT_N lshift_1v8_to_3v3_0/OUT
+ lshift_1v8_to_3v3
Xlshift_1v8_to_3v3_1 VSS VDDA1 VDD nand2_inv_lv_1/Y lshift_1v8_to_3v3_1/OUT_N lshift_1v8_to_3v3_1/OUT
+ lshift_1v8_to_3v3
.ends

.subckt cim_reram_drv_phaseA VDDA1 VDD VSS SRC_RAIL pulse_req_1v8 pulse_kind_form_1v8
+ pulse_kind_setrr_1v8
Xcim_reram_drv_phaseA_srcmux_0 VDD VSS pulse_req_1v8 pulse_kind_form_1v8 pulse_kind_setrr_1v8
+ SRC_RAIL VDDA1 cim_reram_drv_phaseA_srcmux
.ends

